US07074819B2
To a solution of (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-4-[9-(4,4,5,5,5-pentafluoropentylthio)nonyl]chroman (140 mg, 0.250 mmol) and H2O (0.05 ml) in THF (1.2 ml) at 0° C. was added Oxone® (monopersulfate compound; DuPont product) (77 mg, 0.125 mmol). The resulting solution was stirred at 0° C. for 3.5 hr, and then poured into H2O. The mixture was extracted with AcOEt. The organic layer was washed with saturated aqueous NaCl, dried over Na2SO4, filtered, concentrated, and purified by column chromatography (silica gel, 60% AcOEt/hexane) to afford (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-4-[9-(4,4,5,5,5-pentafluoropentylsulfinyl)nonyl]chroman (105 mg, 73%).

reactant | (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-4-[9-(4,4,5,5,5-pentafluoropentylthio)nonyl]chroman | 0.250 mmol, 140 mg | OC1=CC=C2C(C(COC2=C1)C1=CC=C(C=C1)O)CCCCCCCCCSCCCC(C(F)(F)F)(F)F | C29H37F5O3S
reactant | H2O | 0.05 ml | O | H2O
reactant | Oxone | OOS(=O)[O-].[K+]
solvent | THF | 1.2 ml | C1CCOC1 | C4H8O
product | (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-4-[9-(4,4,5,5,5-pentafluoropentylsulfinyl)nonyl]chroman | 105 mg, 73% | OC1=CC=C2C(C(COC2=C1)C1=CC=C(C=C1)O)CCCCCCCCCS(=O)CCCC(C(F)(F)F)(F)F | C29H37F5O4S
